US06002008
4-[(3-Acetylphenyl)amino]-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile
In the manner of Example 116, 4-Chloro-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile was reacted with 3-aminoacetophenone to give the title compound; recrystallized from ethanol to give off-white solid, mp 250-253 (dec).

reactant | 4-Chloro-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC=C(C(=C12)OCCOC)OCCOC)C#N | C16H17ClN2O4
reactant | 3-aminoacetophenone | CC(=O)C1=CC(=CC=C1)N | C8H9NO
product | 4-[(3-Acetylphenyl)amino]-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile | C(C)(=O)C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C(=C12)OCCOC)OCCOC)C#N | C24H25N3O5
